* NGSPICE simulation script
* BJT amp with feedback
*

.options savecurrents
.param n=1/11.20348888888

* supply voltage
Vs 30 GND sin(0 230 50)
F1 30 GND E1 n

E1 1 2 30 GND n

.model Default D

*ENVELOPE DETECTOR CIRCUIT*
*full brigde rectifier
D1 0 1 Default
D2 1 3 Default
D3 2 3 Default
D4 0 2 Default

R1 3 0 60k
C1 3 0 100u

*VOLTAGE REGULATOR CIRCUIT*
R2 3 4 60k

D5 4 5 Default
D6 5 6 Default
D7 6 7 Default
D8 7 8 Default
D9 8 9 Default
D10 9 10 Default
D11 10 11 Default
D12 11 12 Default
D13 12 13 Default
D14 13 14 Default
D15 14 15 Default
D16 15 16 Default
D17 16 17 Default
D18 17 18 Default
D19 18 19 Default
D20 19 20 Default
D21 20 21 Default
D22 21 22 Default
D23 22 23 Default
D24 23 0 Default

.measure tran Vavg  AVG v(4) from=2.4 to=2.6
.measure tran Vmin  MIN v(4) from=2.4 to=2.6
.measure tran Vmax  MAX v(4) from=2.4 to=2.6


.print

.control
set filetype=ascii run

*makes plots in color
set hcopypscolor=0
set color0=black
set color1=white
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

tran 1e-5 2.6 2.4


hardcopy trans2.ps v(1)-v(2) v(3) v(4) v(4)-12 xlabel 'Time' ylabel 'Voltage'
echo trans2_FIG


echo "op1_TAB"
print maximum(v(4)) minimum(v(4)) mean(v(4))
echo "op1_END"

echo "op2_TAB"
print maximum(v(4))-minimum(v(4)) mean(v(4)-12)
echo "op2_END"

echo "op3_TAB"
print 1/ (222.4* ((maximum(v(4))-minimum(v(4))) + mean(v(4)-12) + 1e-6))
echo "op3_END"


quit
.endc

.end
